US07576072B2
Step A: Preparation of 6-chloro-5-methylpyrazolo[1,5-a]pyrimidin-7-ol.
A mixture of 3-aminopyrazole (10.0 g, 120.3 mmol), 2-chloro-3-oxo-butyric acid ethyl ester (16.7 mL, 120.3 mmol), and glacial acetic acid (103 mL) was heated to 120° C. for 1 hour. After cooling to room temperature, the reaction mixture was diluted with EtOH and concentrated. Trituration with Et2O gave 20.7 g (94%) desired product. MS APCI (+) m/z 184, 186 (M+, Cl pattern) detected; 1H NMR (400 mHz, CD3OD) δ 7.90 (d, 1H), 6.17 (d, 1H), 2.53 (s, 3H).

reactant | 3-aminopyrazole | 120.3 mmol, 10.0 g | NC1=NNC=C1 | C3H5N3
reactant | 2-chloro-3-oxo-butyric acid ethyl ester | 120.3 mmol, 16.7 mL | C(C)OC(C(C(C)=O)Cl)=O | C6H9ClO3
reactant | acetic acid | 103 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | CCO | C2H6O
product | 6-chloro-5-methylpyrazolo[1,5-a]pyrimidin-7-ol | 20.7 g, 94% | ClC=1C(=NC=2N(C1O)N=CC2)C | C7H6ClN3O
